Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PODIATRY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
L posterior tibial tendonitis/tear
L tarsal tunnel release
 
Major Surgical or Invasive Procedure:
L ___ tendon repair
L tarsal tunnel release

 
History of Present Illness:
___ with DM, CAD, HTN admitted post-operatively following
correction of her left posterior tibial tendon and a tarsal
tunnel release.  Pt has had pain in her left foot for quite some
time, an MRI revealed a possible tear, intra-operatively there
was a large posterior tear to the ___ tendon.  Also, a tarsal
tunnel release was done and scar tissue removed along the tibial
nerve.  Pt has a history of pulmonary issues, will want to
observe patient post-operatively as she underwent GA to make 
sure
she does not have problems.  

 
Past Medical History:
asthma, emphysema, chronic bronchitis, HTN, CAD (MIx2, 2
cardiac stents ___, migraines, GERD, DM (takes pills and
insulin), Anemia, neuropathy, anxiety

 
Social History:
___
Family History:
parents not known. daughter htn  

 
Physical ___:
Appearance: NAD
HEENT: PERLA
Heart: RRR
Lungs: faint wheezes otherwise clear
Abdomen: obese, NT/ND
VASCULAR
Pedal Pulses:      [x] Palpable  [] Non-palpable
Sub-Papillary VFT: [x] < 3 sec.  [] > 3 sec. [] Immediate
NEUROLOGICAL       Sensation:      [x] Intact  [] Absent
                   Proprioception: [] Intact  [x] Absent

 
Pertinent Results:
Admission Labs:
___ 02:07PM BLOOD WBC-9.6 RBC-3.64* Hgb-12.3 Hct-33.1* 
MCV-91 MCH-33.7* MCHC-37.0*# RDW-12.9 Plt ___
___ 11:10AM BLOOD UreaN-15 Creat-0.7 Na-140 K-3.7 Cl-98 
HCO3-28 AnGap-18
___ 11:10AM BLOOD ALT-17 AST-19
___ 11:10AM BLOOD Cholest-187
___ 11:10AM BLOOD %HbA1c-10.0*
___ 11:10AM BLOOD Triglyc-185* HDL-54 CHOL/HD-3.5 
LDLcalc-96

 
Brief Hospital Course:
The patient was admitted post-operatively for L ___ repair and L 
tarsal tunnel release.  The patient was placed in a BK cast 
following the completion of the case.  The patient tolerated the 
procedure and anesthesia well without apparent complications 
(see op report for full details).  On POD1 Pt given 25mg PO 
benadryl for RUE rash and shortly after, Pt triggered for 
hypotension with SBP into 80's.  Pt asymptomatic with other 
vital signs stable, saturating well on room air.  Pt given 
several 500cc boluses of NS with return to normal pressures of 
110's systolic.  Effects of Benadryl likely exacerbated by Pt 
concomitantly on narcotics for LLE surgery.  
.
The patient was seen by ___ for NWB status and was cleared for 
discharge home. The patient's LLE cast was bivalved and wrapped 
in ACE. The patient was given strict instructions for ___ LLE. 
Please see discharge intructions for full details.
.
Advised to follow up with Dr. ___.
.
Discharged in good condition with VSS.

 
Medications on Admission:
Advair250/50 daily, Albuterol Aerosol prn, EC ASA, Atenolol 100 
Insulin levimir 30 units AM; 60 units ___, Isosorbide Mononitrate 
120,
Lisinopril 10, Metformin [Glucophage] 500 mg TID, Nitroglycerin 
SL, Omeprazole 40 mg daily, Plavix 75 mg daily, Potassium 
chloride  20 mEq, Simvastatin 80 mg
 
Discharge Medications:
1. Albuterol 90 mcg/Actuation Aerosol Sig: ___ Puffs Inhalation 
Q4H (every 4 hours) as needed for wheeze.  
2. Aspirin 325 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily).  
3. Atenolol 50 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily).  
4. Isosorbide Mononitrate 60 mg Tablet Sustained Release 24 hr 
Sig: Two (2) Tablet Sustained Release 24 hr PO DAILY (Daily).  
5. Lisinopril 10 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
6. Metformin 500 mg Tablet Sig: One (1) Tablet PO TID (3 times a 
day).  
7. Nitroglycerin 0.3 mg Tablet, Sublingual Sig: One (1) Tablet, 
Sublingual Sublingual PRN (as needed).  
8. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: Two (2) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
9. Clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
10. Potassium Chloride 20 mEq Tab Sust.Rel. Particle/Crystal 
Sig: One (1) Tab Sust.Rel. Particle/Crystal PO DAILY (Daily).  
11. Simvastatin 40 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
12. Fluticasone-Salmeterol 250-50 mcg/Dose Disk with Device Sig: 
One (1) Disk with Device Inhalation BID (2 times a day).  
13. Insulin
levimir 30 units qAM and 60 units qPM
14. Compazine 10 mg Tablet Sig: One (1) Tablet PO every six (6) 
hours as needed for nausea.
Disp:*30 Tablet(s)* Refills:*0*
15. Oxycodone-Acetaminophen ___ mg Tablet Sig: ___ Tablets PO 
Q4H (every 4 hours) as needed for pain.
Disp:*50 Tablet(s)* Refills:*0*
16. Oxycodone 10 mg Tablet Sustained Release 12 hr Sig: ___ 
Tablet Sustained Release 12 hrs PO Q12H (every 12 hours).
Disp:*40 Tablet Sustained Release 12 hr(s)* Refills:*1*
17. Docusate Sodium 100 mg Tablet Sig: Two (2) Tablet PO twice a 
day.
Disp:*60 Tablet(s)* Refills:*2*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Left posterior tibialis tendonitis
Left tarsal tunnel

 
Discharge Condition:
Good

 
Discharge Instructions:
Please resume all pre-admission medications.  You were given new 
prescriptions, please take as directed.
.
Keep your dressing/cast clean and dry at all times.  You will 
not have any dressing changes.
.
You are to remain NON WEIGHT BEARING on your left foot in a cast 
with crutches/walker/wheelchair at all times.  Keep your left 
foot elevated to prevent swelling.
.
Call your doctor or go to the ED for any increase in left foot 
redness, swelling or purulent drainage from your wound, for any 
nausea, vomiting, fevers greater than 101.5, chills, night 
sweats or any worsening symptoms.
 
Followup Instructions:
___